US07482340B2
6-(2-Phenylchroman-6-yloxy)nicotinonitrile was prepared as described for 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine in example 1 (b) using 500 mg of 2-phenylchroman-6-ol and replacing 2-chloro-5-nitropyridine by 337 mg of 6-chloro-nicotinonitrile. The product was purified by column chromatography using heptane-ethyl acetate as an eluant and then crystallised from 2-propanol. 1H NMR (400 MHz, d6-DMSO) δ: 8.65 (d, 1H, J 2.4 Hz), 8.28 (dd, 1H, 8.8, 2.4 Hz), 7.47-7.34 (m, 5H), 7.17 (d, 1H, J 8.8 Hz) 6.96-6.87 (m, 3H), 5.14 (dd, 1H, J 10.1, 2.2 Hz), 2.99 (m, 1H), 2.73 (m, 1H), 2.18 (m, 1H), 2.00 (m, 1H).

reactant | 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C20H16N2O4
reactant | 2-phenylchroman-6-ol | 500 mg | C1(=CC=CC=C1)C1OC2=CC=C(C=C2CC1)O | C15H14O2
reactant | 6-chloro-nicotinonitrile | 337 mg | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
product | 6-(2-Phenylchroman-6-yloxy)nicotinonitrile | C1(=CC=CC=C1)C1OC2=CC=C(C=C2CC1)OC1=NC=C(C#N)C=C1 | C21H16N2O2
